US04179511
(D) 6-(2-[3-Azidomethyl-2-thienyl]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam.
A solution of 5.48 g. (0.0228 mole) of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam in 200 m.l of 1:1 tetrahydrofuran-water is adjusted to pH 7.5, and then 4.5 g. (0.0228 mole) of 2-(3-azidomethyl-2-thienyl)acetic acid is added. The mixture is cooled to 0°-5° C., and 4.37 g. (0.0288 mole) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride is added. The reaction mixture is stirred at pH 6 and at 0°-5° C. for 2.5 hours. At this point, the tetrahydrofuran is removed by evaporation in vacuo and the pH is adjusted to 7.5. The aqueous residue is washed with ethyl acetate and then the pH is lowered to 2.2. The product is extracted into ethyl acetate. The ethyl acetate is dried and evaporated in vacuo. This affords 8.1 g. (88% yield) of the title compound as a foam. IR (KBr disc): 2100, 1800, 1666, 1529 and 1250 cm-1. NMR (CDCl3): 7.3 (d, 1H), 7.0 (d, 1H), 5.7 (m, 2H), 5.3 (s, 1H), 4.4 (s, 2H), 3.9 (s, 2H), 1.6 (s, 3H) and 1.1 ppm (s, 3H).

reactant | 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam | 0.0228 mole | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
reactant | 2-(3-azidomethyl-2-thienyl)acetic acid | 0.0228 mole | N(=[N+]=[N-])CC1=C(SC=C1)CC(=O)O | C7H7N3O2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.0288 mole | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran water | O1CCCC1.O
product | 6-(2-[3-Azidomethyl-2-thienyl]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | 88% yield | N(=[N+]=[N-])CC1=C(SC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C15H17N9O2S2
